US04064269
17 g of potassium-tert.-butanolate is added at 10° C to a solution of 28 g of 4-phenoxy-phenol in 100 ml of anhydrous dimethylsulphoxide. After the base has completely dissolved, an addition is made dropwise in the course of 2 hours, with stirring, of 26.5 g of chlorobutyric acid diethylamide dissolved in 20 ml of dimethylsulphoxide and the whole is further stirred overnight at room temperature. For further processing, the reaction mixture is poured into ice water, and extraction is repeatedly performed with diethyl ether. The combined ether phases are washed four times with cold 10% potassium hydroxide solution and subsequently repeatedly with water; they are then dried by means of sodium sulphate. After the ether has been distilled off, there is obtained crude 4-[(4-phenoxy)-phenoxy]-butyric acid diethylamide, which is purified by chromatography on silica gel (eluant: ether/hexane 1:3), and recrystallised from isopropanol/hexane, M.P. 73°-74° C.

reactant | potassium tert.-butanolate | 17 g | [K].C(C)(C)(C)[O-]
reactant | 4-phenoxy-phenol | 28 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | chlorobutyric acid diethylamide | 26.5 g | C(C)N(C(C(CC)Cl)=O)CC | C8H16ClNO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-[(4-phenoxy)-phenoxy]-butyric acid diethylamide | C(C)N(C(CCCOC1=CC=C(C=C1)OC1=CC=CC=C1)=O)CC | C20H25NO3
